US05340890
Preparation of Bicyclo[4.2.0]oct-1(6)-ene-3,4-dicarboxylic Anhydride (BODA).
Into a 500-mL, single-neck round bottom glass flask containing a magnetic stirring bar were weighed 76.49 grams (0.78 moles) of maleic anhydride, 0.20 grams of phenothiazine (antioxidant and radical polymerization inhibitor) and 200 grams of dichloromethane. The flask was then fitted with a three-neck adapter to which was attached a thermometer, a condenser and a 250-mL addition funnel. To the funnel was added 91.66 grams of a distilled dimethylenecyclobutane (DMCB) cut containing 69.6% (by GC) 1,2-isomer (63.76 grams, or 0.795 moles, of 1,2-dimethylenecyclobutane). The flask was purged with dry nitrogen. The DMCB was then added dropwise to the maleic anhydride solution with stirring. Refluxing of the dichloromethane kept the temperature of the flask content below approximately 50° C. during the DMCB addition. When the DMCB addition was complete, the mixture was allowed to stand for three days at room temperature to complete the reaction. Solvent and unreacted volatiles were removed at 60° C. at a pressure which was gradually decreased from atmospheric to 20 Pa; the crude product was finally held at 60° C. and 20 Pa for 2 hours to complete the removal of these materials. The crude yield was 136.2 grams (98%). 133 grams of the product was recrystallized from 250 grams of cyclohexane with strong stirring. Yield of recrystallized BODA was 128 grams (94%). Melting point was 81°-83° C. The melting point reported in the literature (A.T. Blomquist and J.A. Verdol, J. Am. Chem. Soc., 77, 1806-9 (1955)) was 77°-78° C.

reactant | maleic anhydride | 0.78 moles, 76.49 grams | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | phenothiazine | 0.20 grams | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | 1,2-dimethylenecyclobutane | C=C1C(CC1)=C | C6H8
solvent | dichloromethane | 200 grams | ClCCl | CH2Cl2
product | Bicyclo[4.2.0]oct-1(6)-ene-3,4-dicarboxylic Anhydride | C1=2CC3C(CC2CC1)C(=O)OC3=O | C10H10O3
